US07465736B2
{2-[(piperidin-4-yl)amino]pyrimidin-4-yl}(4-ethyl-1,3-thiazol-2(3H)-ylidene)acetonitrile
The Boc protected tert-butyl 4-({4-[cyano(4-ethyl-1,3-thiazol-2(3H)-ylidene)methyl]pyrimidin-2-yl}amino)piperidine-1-carbamate was treated with a solution of 20% TFA in DCM overnight at rt, affording the title compound as a diTFA salt after evaporation of the solvent (52.5%).

reactant | tert-butyl 4-({4-[cyano(4-ethyl-1,3-thiazol-2(3H)-ylidene)methyl]pyrimidin-2-yl}amino)piperidine-1-carbamate | C(#N)C(C1=NC(=NC=C1)NC1CCN(CC1)NC(=O)OC(C)(C)C)=C1SC=C(N1)CC | C21H29N7O2S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | {2-[(piperidin-4-yl)amino]pyrimidin-4-yl}(4-ethyl-1,3-thiazol-2(3H)-ylidene)acetonitrile | N1CCC(CC1)NC1=NC=CC(=N1)C(C#N)=C1SC=C(N1)CC | C16H20N6S
